US07981879B2
Step 1: tert-Butyl 5-thioxo-1,4-diazepane-1-carboxylate
tert-Butyl 5-oxo-1,4-diazepane-1-carboxylate, P4S10 (0.2 eq.), HMDO (2 eq.) and dichloromethane were combined and stirred magnetically at room temperature for 1 hour. The reaction mixture was then cooled to 0° C. and aqueous K2CO3 solution (1.26 mL of 5.3 M/mmol P4S10 taken) was added. A volume of acetone equal to one half of the reaction solvent was added to obtain a stirrable mixture, and the reaction mixture was stirred vigorously for 30 minutes at 0° C. Volatiles were evaporated, water and ethyl acetate were added, layers were separated and the organic phase was washed with water and brine. The organic extract was dried over Na2SO4 and evaporated, to afford the title compound. 1H NMR (300 MHz, CDCl3) δ 8.7 (bs, 1H), 3.68-3.60 (m, 4H), 3.42-3.38 (m, 2H), 3.15-3.09 (m, 2H), 1.43 (s, 9H); MS (ES) C10H18N2O2S requires 230. Found: 231 (M+H+).

reactant | tert-Butyl 5-oxo-1,4-diazepane-1-carboxylate | O=C1NCCN(CC1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | P4S10 | 0.2 eq. | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | K2CO3 | 1.26 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | tert-Butyl 5-thioxo-1,4-diazepane-1-carboxylate | S=C1NCCN(CC1)C(=O)OC(C)(C)C | C10H18N2O2S
